US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 3-trifluoromethoxyaniline gave 2-chloro-5-fluoro-N4-(3-trifluoromethoxyphenyl)-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.12 (d, 1H, J=3 Hz), 7.68 (bs, 1H), 7.53 (dd, 1H, J=1.2 and 8.4 Hz), 7.41 9t, 1H, J=8.1 Hz), 7.04 (bdt, 2H); 19F NMR (CDCl3): −16430 and −44463; LCMS: purity: 89%; MS (m/e): 308 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-trifluoromethoxyaniline | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
product | 2-chloro-5-fluoro-N4-(3-trifluoromethoxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)OC(F)(F)F)F | C11H6ClF4N3O
